* source FILTER
L_L1         N14552 N14471  1u  
R_R1         N14467 N14471  200 TC=0,0 
R_R2         0 N14502  0.1 TC=0,0 
L_L2         N14471 N14502  1.5u  
C_C1         0 N14467  170p  TC=0,0 
V_V1         N14552 0  
+PULSE 0 60 0 3n 3n 14n 20n
